US07071182B2
N-(2-oxo-2-{[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]amino}ethyl)-4-phenoxybenzamide
A mixture of 2-amino-N-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-yl]-acetamide (HCl salt, 0.0600 g, 0.186 mmol), (4-benzyloxy-phenyl)-acetic acid (0.0470 g, 0.190 mmol), ethyldimethylpropylcarbodiimide hydrochloride (0.0430 g, 0.225 mmol), N-hydroxybenzotriazole (0.0300 g, 0.222 mmol), N-methyl morpholine (0.0460 g, 0.455 mmol) in 2 mL of DMF was stirred for 6 hours. The mixture was concentrated under reduced pressure, the residue dissolved in 1.5 mL of a 1:1 mixture of DMSO/MeOH and purified by preparative reverse-phase HPLC. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.62 (m, 4H), 2.44 (m, 4H), 2.87 (t, 2H, J=6.78), 2.95 (s, 2H), 4.20 (d, 2H, J=5.76), 4.48 (t, 2H, J=6.78), 6.99–7.47 (m, 9H), 7.65 (m, 1H), 7.96 (m, 2H), 8.27 (m, 1H), 8.83 (m, 1H), 10.13 (s, 1H); MS (DCI/NH3) m/z 484 [M+H]+.

reactant | 2-amino-N-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-yl]-acetamide | 0.186 mmol, 0.0600 g | NCC(=O)NC1=C2C=NN(C2=CC=C1)CCN1CCCC1 | C15H21N5O
reactant | (4-benzyloxy-phenyl)-acetic acid | 0.190 mmol, 0.0470 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 0.225 mmol, 0.0430 g | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 0.222 mmol, 0.0300 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 0.455 mmol, 0.0460 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(2-oxo-2-{[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]amino}ethyl)-4-phenoxybenzamide | O=C(CNC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)NC1=C2C=NN(C2=CC=C1)CCN1CCCC1 | C28H29N5O3
